US04138495
N-(m-Trifluoromethylphenyl)-3-methylthio-4-chloromethyl-2pyrrolidone
In the same manner as descried above for Example 1, sodium methyl mercaptide prepared from 6.5 g of a 25% methanol solution of sodium methoxide in 50 ml of dimethylformamide was added to 9.4 g (0.034 mole) of N-(m-trifluoromethylphenyl)-3-chloro-4-chloromethyl-2-pyrrolidone (prepared according to the procedure described in U.S. Pat. No. 4,069,038). The product weighed 9.3 g, representing 85% yield based on the pyrrolidone, structure confirmed by NMR analysis, with refractive index nD30 =1.5028. This compound is shown in Table I as Compound No. 2.

reactant | sodium methyl mercaptide | C[S-].[Na+]
reactant | sodium methoxide | C[O-].[Na+]
reactant | N-(m-trifluoromethylphenyl)-3-chloro-4-chloromethyl-2-pyrrolidone | 0.034 mole, 9.4 g | FC(C=1C=C(C=CC1)N1C(C(C(C1)CCl)Cl)=O)(F)F | C12H10Cl2F3NO
reactant | pyrrolidone | N1C(CCC1)=O | C4H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | N-(m-Trifluoromethylphenyl)-3-methylthio-4-chloromethyl-2pyrrolidone | 85% yield | FC(C=1C=C(C=CC1)N1C(C(C(C1)CCl)SC)=O)(F)F | C13H13ClF3NOS
